* PEX produced on Sun Aug 16 04:58:08 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=2 and s=1
* NGSPICE file created from vco_core_0.ext - technology: ihp-sg13g2

.subckt vco_core_0 in out gnd vp
X0 vco_delay_cell_0_4.out out a_278_1054# vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=0.32u
X1 gnd in a_276_626# gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=0.64u
X2 gnd in a_888_n538# gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=0.64u
X3 a_274_n1006# vco_delay_cell_0_0.pgt vp vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=0.64u
X4 vp vco_delay_cell_0_0.pgt a_890_1054# vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=0.64u
X5 vp vco_delay_cell_0_0.pgt a_886_n1006# vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=0.64u
X6 a_n336_n538# in gnd gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=0.64u
X7 a_890_1054# vco_delay_cell_0_4.out vco_delay_cell_0_3.out vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=0.32u
X8 vco_delay_cell_0_4.out out a_276_626# gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=0.32u
X9 a_276_n538# vco_delay_cell_0_1.in vco_delay_cell_0_0.in gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=0.32u
X10 a_274_n1006# vco_delay_cell_0_1.in vco_delay_cell_0_0.in vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=0.32u
X11 vp vco_delay_cell_0_0.pgt a_n338_n1006# vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=0.64u
X12 a_888_626# in gnd gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=0.64u
X13 a_888_626# vco_delay_cell_0_4.out vco_delay_cell_0_3.out gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=0.32u
X14 vco_delay_cell_0_0.in vco_delay_cell_0_1.in a_274_n1006# vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=0.32u
X15 vco_delay_cell_0_0.pgt in gnd gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=0.72u
X16 gnd in a_276_n538# gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=0.64u
X17 a_888_n538# in gnd gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=0.64u
X18 gnd in a_888_626# gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=0.64u
X19 vco_delay_cell_0_1.in vco_delay_cell_0_3.out a_888_n538# gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=0.32u
X20 gnd in vco_delay_cell_0_0.pgt gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=0.72u
X21 out vco_delay_cell_0_0.in a_n336_n538# gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=0.32u
X22 a_278_1054# out vco_delay_cell_0_4.out vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=0.32u
X23 vco_delay_cell_0_3.out vco_delay_cell_0_4.out a_888_626# gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=0.32u
X24 vco_delay_cell_0_0.pgt vco_delay_cell_0_0.pgt vp vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=0.72u
X25 a_890_1054# vco_delay_cell_0_0.pgt vp vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=0.64u
X26 gnd in a_n336_n538# gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=0.64u
X27 a_886_n1006# vco_delay_cell_0_3.out vco_delay_cell_0_1.in vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=0.32u
X28 vp vco_delay_cell_0_0.pgt a_278_1054# vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=0.64u
X29 vco_delay_cell_0_3.out vco_delay_cell_0_4.out a_890_1054# vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=0.32u
X30 vco_delay_cell_0_0.in vco_delay_cell_0_1.in a_276_n538# gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=0.32u
X31 vp vco_delay_cell_0_0.pgt a_274_n1006# vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=0.64u
X32 a_886_n1006# vco_delay_cell_0_0.pgt vp vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=0.64u
X33 vp vco_delay_cell_0_0.pgt vco_delay_cell_0_0.pgt vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=0.72u
X34 out vco_delay_cell_0_0.in a_n338_n1006# vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=0.32u
X35 a_276_n538# in gnd gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=0.64u
X36 a_n338_n1006# vco_delay_cell_0_0.in out vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=0.32u
X37 a_n338_n1006# vco_delay_cell_0_0.pgt vp vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=0.64u
X38 a_276_626# out vco_delay_cell_0_4.out gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=0.32u
X39 a_n336_n538# vco_delay_cell_0_0.in out gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=0.32u
X40 vco_delay_cell_0_1.in vco_delay_cell_0_3.out a_886_n1006# vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=0.32u
X41 a_278_1054# vco_delay_cell_0_0.pgt vp vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=0.64u
X42 a_276_626# in gnd gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=0.64u
X43 a_888_n538# vco_delay_cell_0_3.out vco_delay_cell_0_1.in gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=0.32u
C0 vp a_274_n1006# 0.15677f
C1 out a_276_626# 0.07091f
C2 a_888_626# vco_delay_cell_0_4.out 0.07164f
C3 a_888_626# in 0.16272f
C4 a_n336_n538# vco_delay_cell_0_0.in 0.07164f
C5 vp vco_delay_cell_0_3.out 0.32799f
C6 vp a_278_1054# 0.16345f
C7 out vco_delay_cell_0_0.in 0.35576f
C8 a_n338_n1006# a_274_n1006# 0.02694f
C9 vco_delay_cell_0_0.pgt a_276_626# 0.01779f
C10 a_n336_n538# out 0.1524f
C11 vco_delay_cell_0_0.pgt vco_delay_cell_0_0.in 0.09234f
C12 a_888_n538# in 0.16333f
C13 vco_delay_cell_0_4.out in 0.08838f
C14 vco_delay_cell_0_1.in vco_delay_cell_0_0.in 0.35017f
C15 vco_delay_cell_0_0.pgt a_890_1054# 0.15407f
C16 out vco_delay_cell_0_0.pgt 1.25652f
C17 vp vco_delay_cell_0_4.out 0.37125f
C18 vp in 0.0298f
C19 out vco_delay_cell_0_1.in 0.01125f
C20 vco_delay_cell_0_0.pgt vco_delay_cell_0_1.in 0.08664f
C21 vp in 0.01913f
C22 a_274_n1006# vco_delay_cell_0_0.in 0.15747f
C23 a_886_n1006# vco_delay_cell_0_0.pgt 0.15405f
C24 vco_delay_cell_0_3.out a_890_1054# 0.1574f
C25 a_886_n1006# vco_delay_cell_0_1.in 0.15747f
C26 out vco_delay_cell_0_3.out 0.0176f
C27 a_888_n538# a_276_n538# 0.02697f
C28 a_888_626# a_276_626# 0.02697f
C29 in a_276_n538# 0.16369f
C30 vco_delay_cell_0_0.pgt a_274_n1006# 0.15577f
C31 vco_delay_cell_0_3.out vco_delay_cell_0_0.pgt 0.07162f
C32 a_890_1054# a_278_1054# 0.02694f
C33 a_274_n1006# vco_delay_cell_0_1.in 0.08793f
C34 vco_delay_cell_0_3.out vco_delay_cell_0_1.in 0.31355f
C35 out a_278_1054# 0.08442f
C36 vp a_n338_n1006# 0.15535f
C37 a_886_n1006# a_274_n1006# 0.02694f
C38 vco_delay_cell_0_4.out a_276_626# 0.14399f
C39 in a_276_626# 0.16373f
C40 vco_delay_cell_0_0.pgt a_278_1054# 0.17361f
C41 a_886_n1006# vco_delay_cell_0_3.out 0.08636f
C42 in vco_delay_cell_0_0.in 0.08866f
C43 a_890_1054# vco_delay_cell_0_4.out 0.08793f
C44 a_n336_n538# in 0.16281f
C45 out vco_delay_cell_0_4.out 0.3059f
C46 out in 0.20477f
C47 vp a_890_1054# 0.15535f
C48 vco_delay_cell_0_0.pgt vco_delay_cell_0_4.out 0.08815f
C49 vco_delay_cell_0_0.pgt in 0.09541f
C50 vp out 0.37792f
C51 vco_delay_cell_0_1.in a_888_n538# 0.14399f
C52 vp vco_delay_cell_0_0.in 0.35986f
C53 vco_delay_cell_0_1.in in 0.08826f
C54 vp vco_delay_cell_0_0.pgt 3.32648f
C55 a_n338_n1006# vco_delay_cell_0_0.in 0.08793f
C56 a_888_626# vco_delay_cell_0_3.out 0.15224f
C57 out vp 0.07321f
C58 out a_n338_n1006# 0.1574f
C59 vp vco_delay_cell_0_0.pgt 3.14957f
C60 a_276_n538# vco_delay_cell_0_0.in 0.14399f
C61 vp vco_delay_cell_0_1.in 0.36382f
C62 a_n336_n538# a_276_n538# 0.02697f
C63 vco_delay_cell_0_3.out a_888_n538# 0.07953f
C64 vco_delay_cell_0_0.pgt a_n338_n1006# 0.16216f
C65 vco_delay_cell_0_3.out vco_delay_cell_0_4.out 0.35661f
C66 vco_delay_cell_0_3.out in 0.18251f
C67 vp a_886_n1006# 0.15709f
C68 vp vco_delay_cell_0_3.out 0.08366f
C69 vco_delay_cell_0_4.out a_278_1054# 0.15747f
C70 vco_delay_cell_0_1.in a_276_n538# 0.07164f
C71 vp gnd 1.04036f
C72 vp gnd 0.27239f
C73 a_886_n1006# gnd 0.07063f
C74 a_274_n1006# gnd 0.79088f
C75 a_n338_n1006# gnd 0.22786f
C76 a_888_n538# gnd 0.91691f
C77 a_276_n538# gnd 0.76169f
C78 a_n336_n538# gnd 0.50437f
C79 a_888_626# gnd 0.25311f
C80 a_276_626# gnd 3.19858f
C81 vco_delay_cell_0_4.out gnd 0.09868f
C82 a_890_1054# gnd 0.47493f
C83 a_278_1054# gnd 0.57656f
.ends

